US07105679B2
TBAF (1 M in THF, 850 μL, 0.85 mmol, 3 eq.) was added drop-wise into a solution of 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-piperidine (200 mg, 0.285 mmol) in THF (10 mL) at —10° C. The reaction mixture was stirred for 15 minutes. To the reaction mixture was then added 2,2-dimethylpropionic acid chloride (714 μL, 0.285 mmol, 1 eq). The reaction mixture was diluted with ethyl acetate and washed with 5% sodium bicarbonate and then with brine. The organic layer was dried over anhydrous Na2SO4, and concentrated to yield a crude oil, which was purified by HPLC (using Luna C18 column, 1% TFA in acetonitrile (ACN) and 1% TFA in H2O as gradient solvent system). Two peak were collected separately and evaporated to dryness in vacuum to yield 2,2-Dimethyl-propionic acid 8-hydroxy-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromen-2-yl ester as peak one

reactant | TBAF | 0.85 mmol, 1 M, 850 μL, 3 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-piperidine | 0.285 mmol, 200 mg | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3C3=CC=C(OCCN1CCCCC1)C=C3)O[Si](C)(C)C(C)(C)C)(C)C | C41H57NO5Si2
reactant | 2,2-dimethylpropionic acid chloride | 0.285 mmol, 714 μL, 1 eq | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethyl-propionic acid 8-hydroxy-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromen-2-yl ester | OC=1C=CC2=C(C1)OCC1=C2C(OC=2C=C(C=CC12)OC(C(C)(C)C)=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C34H37NO6
